US06455550B1
Preparation of 4-[(4-Cyano)1,3-dioxo-2H-isoindol-2-yl]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine Methyl Ester
To a solution of 4-(5-cyano-1,3-dioxo-2H-isoindol-2-yl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester TFA salt (0.65 mmol, 0.22 g), HBTU (0.7 mmol, 0.26 g) and 1-(2-methoxyethyl)cyclopentane carboxylic acid (0.7 mmol, 0.12 g) in DMF (3 mL) was added diisopropylethylamine (2.0 mmol, 0.35 mL) at room temperature. The clear solution was stirred 24 h at room temperature and was diluted with 50 mL of ethyl acetate. The ethyl acetate layer was washed successively with 0.5N hydrochloric acid (2×20 mL), saturated sodium bicarbonate solution (2×20 mL), brine solution and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave a crude product which was purified by silica gel column chromatography to obtain 0.25 g (77%) of a white solid: mp 122-126° C. HR MS (C26H29N3O6): Obs mass, 504.2135. Calcd mass, 504.2134 (M+H).

reactant | 4-(5-cyano-1,3-dioxo-2H-isoindol-2-yl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester TFA salt | 0.65 mmol, 0.22 g | OC(=O)C(F)(F)F.COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C#N)=O)=O
reactant | HBTU | 0.7 mmol, 0.26 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-methoxyethyl)cyclopentane carboxylic acid | 0.7 mmol, 0.12 g | COCCC1(CCCC1)C(=O)O | C9H16O3
reactant | diisopropylethylamine | 2.0 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-[(4-Cyano)1,3-dioxo-2H-isoindol-2-yl]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine Methyl Ester | 0.25 g, 77% | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)N1C(C2=CC=CC(=C2C1=O)C#N)=O)=O | C28H29N3O6
